US07419984B2
6-[5-Bromo-2-(2-methoxy-ethoxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 4, 4-[5-bromo-2-(2-methoxy-ethoxy)-phenyl)-6-chloro-pyrimidin-2-ylamine and 4-chloro-phenylamine provided the title compound (79% yield). 1H NMR (DMSO-d6) δ 3.26 (s, 3H, CH3), 3.71 (t, 2H, J=4.7 Hz, CH2), 4.19 (t, 2H, J=4.4 Hz, CH2), 6.36 (s, 2H, NH2), 6.74 (s, 1H, Ar), 7.11 (d, 1H, J=8.8 Hz, Ar), 7.31 (d, 2H, J=8.8 Hz, Ar), 7.52 (dd, 1H, J=8.8 Hz, J=2.6 Hz, Ar), 7.76 (d, 2H, J=8.7 Hz, Ar), 8.01 (d, 1H, J=2.6 Hz, Ar), 9.27 (s, 1H, NH).

reactant | 4-[5-bromo-2-(2-methoxy-ethoxy)-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)OCCOC | C13H13BrClN3O2
reactant | 4-chloro-phenylamine | ClC1=CC=C(C=C1)N | C6H6ClN
product | 6-[5-Bromo-2-(2-methoxy-ethoxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 79% yield | BrC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)OCCOC | C19H18BrClN4O2
